US08183239B2
N-(1-{4-[3-(3,5-Dimethyl-isoxazol-4-yl)-ureido]-2-fluoro-phenyl}-piperidin-4-yl)-2-ethyl-N-phenyl-butyramide
A mixture of N-[1-(4-amino-2-fluoro-phenyl)-piperidin-4-yl]-2-ethyl-N-phenyl-butyramide (0.30 mmol) and 4-isocyanato-3,5-dimethyl-isoxazole (1.0 mmol) in DCE (10 mL) was stirred at rt for 16 h. The mixture was concentrated and the residue was purified by PTLC to give the title compound (56 mg, 36%). MS (ESI): mass calcd. for C29H36FN5O3, 521.28. m/z found, 522.4 [M+H]+. 1H NMR (CDCl3): 8.00-7.82 (br s, NH), 7.55-7.41 (m, 4H), 7.20-7.11 (m, 2H), 7.10-6.95 (br s, NH), 6.94-6.75 (m, 2H), 4.90-4.72 (m, 1H), 3.40-3.22 (m, 2H), 2.66-2.57 (m, 2H), 2.33 (s, 3H), 2.24 (s, 3H), 2.09-2.00 (m, 1H), 1.94-1.85 (m, 2H).1.70-1.58 (m, 2H), 1.57-1.45 (m, 2H), 1.42-1.30 (m, 2H), 0.85 (t, J=7.2, 6H).

reactant | N-[1-(4-amino-2-fluoro-phenyl)-piperidin-4-yl]-2-ethyl-N-phenyl-butyramide | 0.30 mmol | NC1=CC(=C(C=C1)N1CCC(CC1)N(C(C(CC)CC)=O)C1=CC=CC=C1)F | C23H30FN3O
reactant | 4-isocyanato-3,5-dimethyl-isoxazole | 1.0 mmol | N(=C=O)C=1C(=NOC1C)C | C6H6N2O2
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | N-(1-{4-[3-(3,5-Dimethyl-isoxazol-4-yl)-ureido]-2-fluoro-phenyl}-piperidin-4-yl)-2-ethyl-N-phenyl-butyramide | 56 mg, 36% | CC1=NOC(=C1NC(NC1=CC(=C(C=C1)N1CCC(CC1)N(C(C(CC)CC)=O)C1=CC=CC=C1)F)=O)C | C29H36FN5O3
